US09145438B2
Step 7: 1-(3-((((2R,3S,4R,5R)-5-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-3,4-dihydroxytetrahydrofuran-2-yl)methyl)(isopropyl)amino)propyl)-3-(4-(tert-butyl)phenyl)urea
1-(4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)propyl)urea (1.07 g, 1.39 mmol) was dissolved in a mixture of trifluoroacetic acid (25 mL) and water (2.5 mL) which had been cooled at 0° C. and the resulting solution was stirred at 0° C. for 30 minutes, then warmed to room temperature. After 4 h, the reaction was found to be complete by HPLC. The reaction mixture was concentrated in vacuo and the residue was taken up in 25 mL MeOH (white slurry) and concentrated. This process was repeated three times and the resultant residue was placed under high vacuum. The material was taken up in 100 mL 10% MeOH/CH2Cl2 and washed with two 75 mL portions of sat NaHCO3 and 50 mL 1% aq Na2CO3. The organic phase was dried over Na2SO4, filtered and concentrated to yield a glass/solid. The crude material was purified by flash chromatography (100 g silica gel, 5-10% 7N NH3 in CH3OH/CH2Cl2) to yield the title compound (0.35 g, 46%) as a colorless glass: MS (ESI+) for C28H41N7O4 m/z 540.3 (M+H)+; (ESI−) for C28H41N7O4 m/z 538.3 (M−H)−, m/z 584.4 (M+HCO2)−; HPLC purity 98% (ret. time 2.86 min); 1H NMR (400 MHz, d4-MeOH) ppm 8.05 (s, 1H), 7.27 (d, J=3.73 Hz, 1H), 7.24 (m, 2H), 7.18 (m, 2H), 6.63 (d, J=3.73 Hz, 1H), 6.15 (d, J=4.77 Hz, 1H), 4.46 (t, J=5.08 Hz, 1H), 4.18 (t, J=5.39 Hz, 1H), 4.11 (m, 1H), 3.22 (m, 2H), 3.07 (m, 1H), 2.85 (m, 1H), 2.72 (m, 1H), 2.60 (t, J=6.43 Hz, 2H), 1.68 (m, 2H), 1.28 (s, 9H), 1.05 (d, J=6.63 Hz, 3H), 1.01 (d, J=6.43 Hz, 3H).

reactant | 1-(4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)propyl)urea | 1.39 mmol, 1.07 g | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)NCCCN(C(C)C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C40H55N7O6
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 2.5 mL | O | H2O
product | 1-(3-((((2R,3S,4R,5R)-5-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-3,4-dihydroxytetrahydrofuran-2-yl)methyl)(isopropyl)amino)propyl)-3-(4-(tert-butyl)phenyl)urea | 0.35 g, 46% | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](O2)CN(CCCNC(=O)NC2=CC=C(C=C2)C(C)(C)C)C(C)C)O)O | C28H41N7O4
